US07737166B2
6-Acetyl-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-82)
N-(4-Acetyl-2-cyano-5-fluoro-6-hydroxy-3-methylphenyl)cyclopropanecarboxamide (I-81) (200 mg, 0.72 mmol) was dissolved in toluene (4 ml), pyridinium p-toluenesulfonate (40 mg, 0.14 mmol) was, added, followed by heating under reflux for 21 hours. After cooling to room temperature, this was diluted with ethyl acetate, washed with water and saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, eluted with a mixed solvent of n-hexane/ethyl acetate (3:1, v/V) to obtain the entitled compound (133 mg, 71%) as a white solid.

reactant | N-(4-Acetyl-2-cyano-5-fluoro-6-hydroxy-3-methylphenyl)cyclopropanecarboxamide | 0.72 mmol, 200 mg | C(C)(=O)C1=C(C(=C(C(=C1F)O)NC(=O)C1CC1)C#N)C | C14H13FN2O3
reactant | pyridinium p-toluenesulfonate | 0.14 mmol, 40 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Acetyl-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 133 mg, 71% | C(C)(=O)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C14H11FN2O2
